US08461328B2
Palladium hydroxide (20% wt on carbon, 2.5 g) was added to a solution of trans 4-(1-benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-cyclohexane carboxylic acid ethyl ester (assumed to be 44.4 mmol) in acetic acid (150 mL) under nitrogen. The reaction was evacuated and purged with hydrogen and the reaction warmed to 50° C. for 8 hours. The reaction vessel was recharged with hydrogen gas and stirred at room temperature for 18 hours. The mixture was then filtered through Celite® and the filtrate concentrated to dryness under vacuum. The resulting residue was partitioned between DCM and sodium hydrogen carbonate (sat. aq.), the organic layer dried with sodium sulphate and concentrated under vacuum. The residue was purified by column chromatography on silica gel (eluting: ethyl acetate) to give 16.2 g (83%) of trans 4-(5-amino-1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-cyclohexanecarboxylic acid ethyl ester as a purple solid. 1H NMR (400 MHz, CDCl3) δ: 8.13 (m, 2H), 7.83 (s, 1H), 7.53 (m, 1H), 7.45 (m, 3H), 6.54 (d, 1H), 4.75 (br s, 1H), 4.14 (q, 2H), 3.68 (m, 1H), 2.65 (br s, 2H), 2.32 (m, 1H), 2.20 (m, 2H), 2.09 (m, 2H), 1.63 (m, 2H), 1.33-1.20 (m, 5H).

reactant | trans 4-(1-benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-cyclohexane carboxylic acid ethyl ester | 44.4 mmol | C(C)OC(=O)[C@@H]1CC[C@H](CC1)NC1=C2C(=NC=C1[N+](=O)[O-])N(C=C2)S(=O)(=O)C2=CC=CC=C2 | C22H24N4O6S
solvent | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
catalyst | Palladium hydroxide | 2.5 g | [OH-].[Pd+2].[OH-]
product | trans 4-(5-amino-1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-cyclohexanecarboxylic acid ethyl ester | 16.2 g, 83% | C(C)OC(=O)[C@@H]1CC[C@H](CC1)NC1=C2C(=NC=C1N)N(C=C2)S(=O)(=O)C2=CC=CC=C2 | C22H26N4O4S
